US05834471
N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]-2-(4-pyridyl)-3-methoxythiophene-4-carboxamide
2-Bromo-N-[4-methoxy-3-(4-methyl- 1-piperazinyl)phenyl]-3-methoxythiophene-4-carboxamide (0.20 g;0.45 mmol) was stirred with 4-pyridylboronic acid (0.056 g;0.45 mmol), tetrakis(triphenylphosphine)palladium(0) (0.024 g) and anhydrous sodium carbonate (0.053 g;0.50 mmol) in water (5 ml) and DME (5 ml) and the whole heated at reflux under Ar (18 hours). The reaction mixture was poured into 10% Na2CO3 (aq) (20 ml) and extracted into CHCl3. The organic extracts were combined, dried over Na2SO4, filtered and the filtrate evaporated in vacuo to a brown gum. The gum was purified by flash silica-gel chromatography and eluted with 4%MeOH/CHCl3 to yield a orange gum (0.088;44%).

reactant | 2-Bromo-N-[4-methoxy-3-(4-methyl- 1-piperazinyl)phenyl]-3-methoxythiophene-4-carboxamide | 0.45 mmol, 0.20 g | BrC=1SC=C(C1OC)C(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C18H22BrN3O3S
reactant | 4-pyridylboronic acid | 0.45 mmol, 0.056 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 0.50 mmol, 0.053 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Na2CO3 | 20 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 5 ml | O | H2O
solvent | DME | 5 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]-2-(4-pyridyl)-3-methoxythiophene-4-carboxamide | COC1=C(C=C(C=C1)NC(=O)C=1C(=C(SC1)C1=CC=NC=C1)OC)N1CCN(CC1)C | C23H26N4O3S
